US05698670
a) Boc-D -MeAla-OH
To 48 ml of a solution of Boc-D -Ala-OH (3.0 g, 15.9 mmol) in tetrahydrofuran (THF) was added 60% sodium hydride (1.9 g, 47.6 mmol) under ice-cooling and the mixture was stirred for 10 minutes. Then, methyl iodide (7.9 ml, 127 mmol) was added and the mixture was further stirred at room temperature for 22 hours. The reaction mixture was then concentrated under reduced pressure, ice-cooled, acidified with 10% citric acid-H2O, and extracted with ethyl acetate. The extract was washed with saturated NaCl-H2O, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from hexane and the crystal crop was washed with hexane to provide the title compound. Yield 3.07 g (94.8%).

reactant | Boc-D -Ala-OH | 15.9 mmol, 3.0 g | C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C8H15NO4
reactant | sodium hydride | 47.6 mmol, 1.9 g | [H-].[Na+]
reactant | methyl iodide | 127 mmol, 7.9 ml | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Boc-D -MeAla-OH | C[C@H](C(=O)O)N(C)C(=O)OC(C)(C)C | C9H17NO4
